US04284631
A mixture of 7-[2-(2-formamidothiazol-4-yl)-2-methylthiomethoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 0.22 g.), conc. hydrochloric acid (0.25 g.) and methanol (3.3 ml.) was stirred at room temperature for 2.3 hours. After concentrating the resultant solution in vacuo, the residue was poured into water, adjusted to pH 7 with 10% aqueous sodium hydroxide and washed with ethyl acetate. The aqueous solution was adjusted to pH 3 with 10% hydrochloric acid under ice cooling and stirred at the same temperature for 30 minutes. The precipitates were collected by filtration, washed with water and dried to give 7-[2-(2-aminothiazol-4-yl)-2-methylthiomethoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 0.1 g.).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-methylthiomethoxyiminoacetamido]-3-cephem-4-carboxylic acid | 0.22 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCSC | C15H15N5O6S3
reactant | hydrochloric acid | 0.25 g | Cl | ClH
solvent | methanol | 3.3 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-4-yl)-2-methylthiomethoxyiminoacetamido]-3-cephem-4-carboxylic acid | 0.1 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCSC | C14H15N5O5S3
